US04659503
A mixture of 15.3 g of 2-(2-p-hydroxyphenyl-5-pyridyl)-thiophene, 6.9 g of K2CO3, 25 g of hexyl iodide and 250 ml of DMF is heated at 80° C. for 16 hours, with stirring, and then cooled and worked up in the customary manner. 2-(2-p-Hexoxyphenyl-5-pyridyl)-thiophene is obtained.

reactant | 2-(2-p-hydroxyphenyl-5-pyridyl)-thiophene | 15.3 g | OC1=CC=C(C=C1)C1=NC=C(C=C1)C=1SC=CC1 | C15H11NOS
reactant | K2CO3 | 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hexyl iodide | 25 g | C(CCCCC)I | C6H13I
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 2-(2-p-Hexoxyphenyl-5-pyridyl)-thiophene | C(CCCCC)OC1=CC=C(C=C1)C1=NC=C(C=C1)C=1SC=CC1 | C21H23NOS
